US07700641B2
Synthesis of 1′-(3-hydroxypropyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
A suspension of 1′-[3-(benzyloxy)propyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one (6.27 g, 14.5 mmol) and 10% Pd/C (0.5 g) in MeOH (150 mL) was hydrogenated under the normal pressure of hydrogen overnight and filtered through a pad of celite. The filtrate was concentrated in vacuo to dryness. The residue was crystallized from ether to yield the title compound (4.82 g) as a white solid in 98% yield: 1H NMR (300 MHz, CDCl3) δ 7.38-6.93 (m, 4H), 6.49 (s, 1H), 6.10 (s, 1H), 4.87 (m, 1H), 4.63 (m, 1H), 4.01-3.81 (m, 2H), 3.62 (t, 2H), 2.89 (br, 1H), 1.99-1.91(m, 2H); 13C NMR (75 MHz, CDCl3) δ 178.8, 156.0, 148.9, 142.4, 142.1, 132.3, 129.0, 128.9, 124.1, 123.9, 119.0, 108.6, 103.0, 101.5, 93.6, 80.4, 58.3, 37.8, 29.8; MS (ES+) m/z 340.2 (M+1).

reactant | 1′-[3-(benzyloxy)propyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 14.5 mmol, 6.27 g | C(C1=CC=CC=C1)OCCCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C26H23NO5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 150 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 1′-(3-hydroxypropyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | 4.82 g, 98% yield | OCCCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C19H17NO5
